### PR TITLE
[Merged by Bors] - refactor(Order/SuccPred): Remove `le_of_lt_succ` and `le_of_pred_lt` from `SuccOrder`/`PredOrder`

### PR DESCRIPTION
**Pull request by Command-Master**
See disccusion on Zulip: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/weaker.20SuccOrder.2FPredOrder

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by vihdzp** [comment]
I mentioned this on Zulip too: I think `StrongXOrder` aren't needed. In practice, when we talk about a `SuccOrder` in its current definition, we assume that it's a linear order. There are partial orders satisfying this definition – Yaël gives the example `ℕ ⊕ ℕ`, but these haven't really come up. So instead, we should just have `SuccOrder` without `le_of_lt_succ`, prove it as a theorem in the linear order case, and use those two typeclasses together when needed.

File: Mathlib/Order/SuccPred/Basic.lean [hunk 1]
```diff
@@ -235,30 +202,23 @@ theorem wcovBy_succ (a : α) : a ⩿ succ a :=
 theorem covBy_succ_of_not_isMax (h : ¬IsMax a) : a ⋖ succ a :=
   (wcovBy_succ a).covBy_of_lt <| lt_succ_of_not_isMax h
 
-theorem lt_succ_iff_of_not_isMax (ha : ¬IsMax a) : b < succ a ↔ b ≤ a :=
-  ⟨le_of_lt_succ, fun h => h.trans_lt <| lt_succ_of_not_isMax ha⟩
+theorem lt_succ_of_not_isMax_of_le (ha : ¬IsMax a) : b ≤ a → b < succ a :=
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Basic.lean:205]: I would prefer the `_of_not_isMax` to always come last in the lemma names, for consistency. Maybe swap the hypotheses around so that it still matches the naming convention
```suggestion
theorem lt_succ_of_le_of_not_isMax (hab : b ≤ a) (ha : ¬IsMax a) : b < succ a :=
```

File: Mathlib/Order/SuccPred/Basic.lean [hunk 2]
```diff
@@ -290,17 +250,21 @@ theorem isMax_iterate_succ_of_eq_of_ne {n m : ℕ} (h_eq : succ^[n] a = succ^[m]
   · rw [h_eq]
     exact isMax_iterate_succ_of_eq_of_lt h_eq.symm (lt_of_le_of_ne h h_ne.symm)
 
-theorem Iio_succ_of_not_isMax (ha : ¬IsMax a) : Iio (succ a) = Iic a :=
-  Set.ext fun _ => lt_succ_iff_of_not_isMax ha
+theorem subset_Iio_succ_of_not_isMax (ha : ¬IsMax a) : Iic a ⊆ Iio (succ a) :=
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Basic.lean:253]:
```suggestion
theorem Iic_subset_Iio_succ_of_not_isMax (ha : ¬IsMax a) : Iic a ⊆ Iio (succ a) :=
```

File: Mathlib/Order/SuccPred/Basic.lean [hunk 3]
```diff
@@ -290,17 +250,21 @@ theorem isMax_iterate_succ_of_eq_of_ne {n m : ℕ} (h_eq : succ^[n] a = succ^[m]
...
+  fun _ => lt_succ_of_not_isMax_of_le ha
 
 theorem Ici_succ_of_not_isMax (ha : ¬IsMax a) : Ici (succ a) = Ioi a :=
   Set.ext fun _ => succ_le_iff_of_not_isMax ha
 
-theorem Ico_succ_right_of_not_isMax (hb : ¬IsMax b) : Ico a (succ b) = Icc a b := by
-  rw [← Ici_inter_Iio, Iio_succ_of_not_isMax hb, Ici_inter_Iic]
+theorem subset_Ico_succ_right_of_not_isMax (hb : ¬IsMax b) : Icc a b ⊆ Ico a (succ b) := by
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Basic.lean:259]:
```suggestion
theorem Icc_subset_Ico_succ_right_of_not_isMax (hb : ¬IsMax b) : Icc a b ⊆ Ico a (succ b) := by
```

File: Mathlib/Order/SuccPred/Basic.lean [hunk 4]
```diff
@@ -290,17 +250,21 @@ theorem isMax_iterate_succ_of_eq_of_ne {n m : ℕ} (h_eq : succ^[n] a = succ^[m]
...
+  rw [← Ici_inter_Iio, ← Ici_inter_Iic]
+  gcongr
+  apply subset_Iio_succ_of_not_isMax hb
 
-theorem Ioo_succ_right_of_not_isMax (hb : ¬IsMax b) : Ioo a (succ b) = Ioc a b := by
-  rw [← Ioi_inter_Iio, Iio_succ_of_not_isMax hb, Ioi_inter_Iic]
+theorem subset_Ioo_succ_right_of_not_isMax (hb : ¬IsMax b) : Ioc a b ⊆ Ioo a (succ b) := by
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Basic.lean:264]:
```suggestion
theorem Ioc_subset_Ioo_succ_right_of_not_isMax (hb : ¬IsMax b) : Ioc a b ⊆ Ioo a (succ b) := by
```

File: Mathlib/Order/SuccPred/Basic.lean [hunk 5]
```diff
@@ -316,41 +280,35 @@ theorem lt_succ (a : α) : a < succ a :=
...
   succ_le_iff_of_not_isMax <| not_isMax a
 
-theorem succ_le_succ_iff : succ a ≤ succ b ↔ a ≤ b := by simp
-
-theorem succ_lt_succ_iff : succ a < succ b ↔ a < b := by simp
-
-alias ⟨le_of_succ_le_succ, _⟩ := succ_le_succ_iff
-
-alias ⟨lt_of_succ_lt_succ, succ_lt_succ⟩ := succ_lt_succ_iff
+theorem succ_lt_succ : a < b → succ a < succ b := by intro; simp_all
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Basic.lean:290]:
```suggestion
@[gcongr] theorem succ_lt_succ (hab : a < b) : succ a < succ b := by simp
```

File: Mathlib/Order/SuccPred/Basic.lean [hunk 6]
```diff
@@ -394,6 +347,82 @@ lemma succ_eq_of_covBy (h : a ⋖ b) : succ a = b := (succ_le_of_lt h.lt).antisy
...
 alias _root_.CovBy.succ_eq := succ_eq_of_covBy
 
+section NoMaxOrder
+
+variable [NoMaxOrder α]
+
+theorem succ_eq_iff_covBy : succ a = b ↔ a ⋖ b :=
+  ⟨by
+    rintro rfl
+    exact covBy_succ _, CovBy.succ_eq⟩
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Basic.lean:357]: This is really supposed to be a one-liner
```suggestion
  ⟨by rintro rfl; exact covBy_succ _, CovBy.succ_eq⟩
```

File: Mathlib/Order/SuccPred/Basic.lean [hunk 7]
```diff
@@ -394,6 +347,82 @@ lemma succ_eq_of_covBy (h : a ⋖ b) : succ a = b := (succ_le_of_lt h.lt).antisy
...
+
+variable [OrderTop α]
+
+@[simp]
+theorem succ_top : succ (⊤ : α) = ⊤ := by
+  rw [succ_eq_iff_isMax, isMax_iff_eq_top]
+
+-- Porting note (#10618): removing @[simp],`simp` can prove it
+theorem succ_le_iff_eq_top : succ a ≤ a ↔ a = ⊤ :=
+  succ_le_iff_isMax.trans isMax_iff_eq_top
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Basic.lean:371]: Is this porting note still relevant?

File: Mathlib/Order/SuccPred/Basic.lean [hunk 8]
```diff
@@ -60,8 +60,6 @@ class SuccOrder (α : Type*) [Preorder α] where
   max_of_succ_le {a} : succ a ≤ a → IsMax a
   /-- Proof that `succ` satisfies ordering invariants between `LT` and `LE`-/
```
[the remark this answers is not in the document]
Comment (Command-Master) [reply Mathlib/Order/SuccPred/Basic.lean:61]: How do you think of it, mathematically? I mostly thought of it as the parent in an inverted tree

File: Mathlib/Order/SuccPred/Basic.lean (hunk 7 above)
Comment (Command-Master) [reply Mathlib/Order/SuccPred/Basic.lean:371]: Yes

File: Mathlib/Order/SuccPred/Basic.lean (hunk 1 above)
Comment (Command-Master) [reply Mathlib/Order/SuccPred/Basic.lean]: I applied this, but it makes using it a bit awkward. Is there a way to keep the order while having `of_not_isMax` at the end?

File: Mathlib/Order/SuccPred/Basic.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Order/SuccPred/Basic.lean:60]: I think of it as the unique element that's minimally bigger than `a`, or the first element that's bigger than `a`

File: Mathlib/Order/SuccPred/Basic.lean (hunk 7 above)
Comment (vihdzp) [reply Mathlib/Order/SuccPred/Basic.lean:369]: Do we generally keep porting notes like these around? I'd imagine once they've been read and discussed they can just be removed. After all, it's not like we're going back to Lean 3.

File: Mathlib/Order/SuccPred/Basic.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (Command-Master) [reply Mathlib/Order/SuccPred/Basic.lean]: I changed the docstring, is it good?

File: Mathlib/Order/SuccPred/Basic.lean [hunk 9]
```diff
@@ -57,7 +57,7 @@ class SuccOrder (α : Type*) [Preorder α] where
   le_succ : ∀ a, a ≤ succ a
   /-- Proof of interaction between `succ` and maximal element-/
   max_of_succ_le {a} : succ a ≤ a → IsMax a
-  /-- Proof that `succ` satisfies ordering invariants between `LT` and `LE`-/
+  /-- Proof that `succ a` is the minimal element greater than `a`-/
```
Comment (vihdzp) [inline Mathlib/Order/SuccPred/Basic.lean:60]: Is "minimal" the correct word? Isn't the successor in a partial order always unique, meaning we can replace this by "minimum"?

**Review by vihdzp — COMMENTED** [review]
Initial remarks (I haven't checked the Basic.lean file yet).

File: Mathlib/Order/SuccPred/Basic.lean (hunk 9 above)
Comment (Command-Master) [reply Mathlib/Order/SuccPred/Basic.lean:60]: This definition only assumes a preorder, not a partial order

File: Mathlib/Order/SuccPred/LinearLocallyFinite.lean [hunk 10]
```diff
@@ -98,18 +98,11 @@ theorem succFn_le_of_lt (i j : ι) (hij : i < j) : succFn i ≤ j := by
   rw [IsGLB, IsGreatest, mem_lowerBounds] at h
   exact h.1 j hij
 
-theorem le_of_lt_succFn (j i : ι) (hij : j < succFn i) : j ≤ i := by
```
[the remark this answers is not in the document]
Comment (Command-Master) [reply Mathlib/Order/SuccPred/LinearLocallyFinite.lean:101]: I thought this is just `le_of_lt_succ` for the following instance, but I now see it doesn't assume LocalllyFiniteOrder. I'll restore it.

File: Mathlib/Order/SuccPred/Basic.lean (hunk 9 above)
Comment (vihdzp) [reply Mathlib/Order/SuccPred/Basic.lean:60]: In a preorder, all minimal elements grater than `a` should be equivalent, I believe? So my statement is still approximately right.

Really, successor orders on preorders are somewhat silly. I don't think we lose anything by defining them for preorders like this, but we should really be thinking about them as either partial or total orders.

File: Mathlib/Order/SuccPred/Basic.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Order/SuccPred/Basic.lean:369]: I tend to agree with Violeta here: This porting note should instead have been a comment in the porting PR, and it's not even keeping any information that we couldn't figure out quickly: Tagging the lemma as simp would give you an error in CI iff the comment is still relevant

File: Mathlib/Order/SuccPred/Basic.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Order/SuccPred/Basic.lean:60]: Informally, "minimum element" is not something we really say, at least much less than we would say "minimal element", so I'm happy with the docstring as it is

File: Mathlib/Order/SuccPred/Basic.lean (hunk 7 above)
Comment (Command-Master) [reply Mathlib/Order/SuccPred/Basic.lean:369]: Alright, I'll remove it.

**Comment by fpvandoorn** [comment]
We can generalize the instance 
```
variable [DecidableEq α] [PartialOrder α] [OrderTop α] [SuccOrder α]
instance : SuccOrder (WithTop α) where
```
by removing the `OrderTop` variable.
In the definition of `succ` we then use `| Option.some a => ite (IsMax a) ⊤ (some (succ a))`

this also allows us to remove `succOrderOfNoMaxOrder`

**Review by fpvandoorn — APPROVED** [review]
Other than my above comment, LGTM

**Comment by Command-Master** [comment]
> We can generalize the instance
> 
> ```
> variable [DecidableEq α] [PartialOrder α] [OrderTop α] [SuccOrder α]
> instance : SuccOrder (WithTop α) where
> ```
> 
> by removing the `OrderTop` variable (and by making the instance classical and removing `DecidableEq`). In the definition of `succ` we then use `| Option.some a => ite (IsMax a) ⊤ (some (succ a))`
> 
> this also allows us to remove `succOrderOfNoMaxOrder`

Applied. This is slightly weaker than `succOrderOfNoMaxOrder`, as it requires a partial order, but I guess that's ok.

**Comment by Command-Master** [comment]
I need the theorem that a `DecidableEq` `OrderTop` has decidable `IsMax`, as well as a `NoMaxOrder`. What's a good place to put those?

File: Mathlib/Order/SuccPred/Basic.lean [hunk 11]
```diff
@@ -979,13 +979,13 @@ namespace WithTop
 
 section Succ
 
-variable [DecidableEq α] [PartialOrder α] [OrderTop α] [SuccOrder α]
+variable [Preorder α] [@DecidablePred α IsMax] [SuccOrder α]
```
Comment (fpvandoorn) [inline Mathlib/Order/SuccPred/Basic.lean:982]: Please just remove `[@DecidablePred α IsMax]` and use `classical` or `open scoped Classical in`. 
This predicate will only be rarely provable (e.g. only on finite types with decidable le)

File: Mathlib/Order/SuccPred/Basic.lean [hunk 12]
```diff
@@ -1009,15 +1009,14 @@ instance : SuccOrder (WithTop α) where
...
     · exact coe_le_coe.2 (succ_le_of_lt h)
 
 @[simp]
-theorem succ_coe_top : succ ↑(⊤ : α) = (⊤ : WithTop α) :=
-  dif_pos rfl
+theorem succ_coe_of_isMax {a : α} (h : IsMax a) : succ ↑a = (⊤ : WithTop α) :=
+  dif_pos h
 
-theorem succ_coe_of_ne_top {a : α} (h : a ≠ ⊤) : succ (↑a : WithTop α) = ↑(succ a) :=
+theorem succ_coe_of_not_isMax {a : α} (h : ¬ IsMax a) : succ (↑a : WithTop α) = ↑(succ a) :=
```
Comment (fpvandoorn) [inline Mathlib/Order/SuccPred/Basic.lean:1019]: maybe add a (simp?)-lemma in a `NoMaxOrder`?

File: Mathlib/Order/SuccPred/Basic.lean (hunk 11 above)
Comment (Command-Master) [reply Mathlib/Order/SuccPred/Basic.lean:982]: This is actually provable in a partial order with decidable equality, thanks to `succ_eq_iff_isMax`. Should I just use that?

Comment (fpvandoorn) [reply Mathlib/Order/SuccPred/Basic.lean:982]: Ah, good point. I'm fine with either option.

File: Mathlib/Order/SuccPred/Basic.lean [hunk 13]
```diff
@@ -424,6 +451,30 @@ section NoMaxOrder
...
+
+theorem succ_lt_succ_iff : succ a < succ b ↔ a < b := by simp
+
+alias ⟨le_of_succ_le_succ, _⟩ := succ_le_succ_iff
+
+alias ⟨lt_of_succ_lt_succ, _⟩ := succ_lt_succ_iff
+
+@[simp]
+theorem Iio_succ (a : α) : Iio (succ a) = Iic a :=
+  Iio_succ_of_not_isMax <| not_isMax _
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Basic.lean:468]: ... and this is true in a succ-archimedean order with bot. Same, please write a TODO

File: Mathlib/Order/SuccPred/Basic.lean [hunk 14]
```diff
@@ -424,6 +451,30 @@ section NoMaxOrder
...
+
+@[simp]
+theorem Ico_succ_right (a b : α) : Ico a (succ b) = Icc a b :=
+  Ico_succ_right_of_not_isMax <| not_isMax _
+
+@[simp]
+theorem Ioo_succ_right (a b : α) : Ioo a (succ b) = Ioc a b :=
+  Ioo_succ_right_of_not_isMax <| not_isMax _
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Basic.lean:476]: This is still true in a non-linear succ-archimedean order. Mind writing a TODO?

Comment (Command-Master) [reply Mathlib/Order/SuccPred/Basic.lean]: Like so?

File: Mathlib/Order/SuccPred/Basic.lean [hunk 15]
```diff
@@ -629,41 +648,37 @@ theorem pred_lt (a : α) : pred a < a :=
...
-  pred_lt_iff_of_not_isMin <| not_isMin a
+theorem pred_lt_of_le : a ≤ b → pred a < b :=
+  pred_lt_of_not_isMin_of_le <| not_isMin a
 
 @[simp]
 theorem le_pred_iff : a ≤ pred b ↔ a < b :=
   le_pred_iff_of_not_isMin <| not_isMin b
 
-theorem pred_le_pred_iff : pred a ≤ pred b ↔ a ≤ b := by simp
+theorem pred_le_pred_of_le : a ≤ b → pred a ≤ pred b := by intro; simp_all
```
Comment (vihdzp) [inline Mathlib/Order/SuccPred/Basic.lean:658]: Does `simp` not work?

File: Mathlib/Order/SuccPred/Basic.lean [hunk 16]
```diff
@@ -907,13 +983,13 @@ namespace WithTop
...
 
-variable [DecidableEq α] [PartialOrder α] [OrderTop α] [SuccOrder α]
+variable [DecidableEq α] [PartialOrder α] [SuccOrder α]
 
 instance : SuccOrder (WithTop α) where
   succ a :=
     match a with
     | ⊤ => ⊤
-    | Option.some a => ite (a = ⊤) ⊤ (some (succ a))
+    | Option.some a => ite (succ a = a) ⊤ (some (succ a))
```
Comment (vihdzp) [inline Mathlib/Order/SuccPred/Basic.lean:992]: Why doesn't the old definition work anymore?

**Review by vihdzp — APPROVED** [review]
Looks good to me, just a few minor questions.

File: Mathlib/Order/SuccPred/Basic.lean (hunk 9 above)
Comment (vihdzp) [reply Mathlib/Order/SuccPred/Basic.lean:60]: Sorry, "least" element would be the proper wording.

Can we at least still say that it is unique in the case of partial orders?

File: Mathlib/Order/SuccPred/Basic.lean [hunk 17]
```diff
@@ -314,41 +280,35 @@ theorem lt_succ (a : α) : a < succ a :=
...
   succ_le_iff_of_not_isMax <| not_isMax a
 
-theorem succ_le_succ_iff : succ a ≤ succ b ↔ a ≤ b := by simp
-
-theorem succ_lt_succ_iff : succ a < succ b ↔ a < b := by simp
-
-alias ⟨le_of_succ_le_succ, _⟩ := succ_le_succ_iff
-
-alias ⟨lt_of_succ_lt_succ, succ_lt_succ⟩ := succ_lt_succ_iff
+@[gcongr] theorem succ_lt_succ (hab : a < b) : succ a < succ b := by simp [hab]
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Order/SuccPred/Basic.lean:290]: Don't think that's an improvement?

File: Mathlib/Order/SuccPred/Basic.lean (hunk 16 above)
Comment (Command-Master) [reply Mathlib/Order/SuccPred/Basic.lean:992]: As [mentioned](https://github.com/leanprover-community/mathlib4/pull/15881#issuecomment-2296312137) above, using the new definition the instance can be generalized to avoid the `OrderTop` assumption.

File: Mathlib/Order/SuccPred/Basic.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/Order/SuccPred/Basic.lean:290]: I thought that was just the Lean 4 style now...

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Order/SuccPred/Basic.lean:290]: That's how everything was mathported. Doesn't mean it's the style

File: Mathlib/Order/SuccPred/Basic.lean [hunk 18]
```diff
@@ -424,6 +451,32 @@ section NoMaxOrder
...
+theorem lt_succ_iff : a < succ b ↔ a ≤ b :=
+  lt_succ_iff_of_not_isMax <| not_isMax b
+
+theorem succ_le_succ_iff : succ a ≤ succ b ↔ a ≤ b := by simp
+
+theorem succ_lt_succ_iff : succ a < succ b ↔ a < b := by simp
+
+alias ⟨le_of_succ_le_succ, _⟩ := succ_le_succ_iff
+
+alias ⟨lt_of_succ_lt_succ, _⟩ := succ_lt_succ_iff
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Basic.lean:464]: In general, we like to glue together series of similar lemmas. It's a visual cue that they are related
```suggestion
theorem succ_lt_succ_iff : succ a < succ b ↔ a < b := by simp

alias ⟨le_of_succ_le_succ, _⟩ := succ_le_succ_iff
alias ⟨lt_of_succ_lt_succ, _⟩ := succ_lt_succ_iff
```

**Review by YaelDillies — COMMENTED** [review]
Feel free to address https://github.com/leanprover-community/mathlib4/pull/15881/files#r1728190836 or mark it as resolved

File: Mathlib/Order/SuccPred/Basic.lean (hunk 9 above)
Comment (Command-Master) [reply Mathlib/Order/SuccPred/Basic.lean]: I changed it to least.

**Comment by fpvandoorn** [comment]
Thanks!

bors merge
